2103-11-04 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2103-11-3**] 01:30 PM
 INDWELLING PORT (PORTACATH) - START [**2103-11-3**] 03:34 PM
 BRONCHOSCOPY - At [**2103-11-3**] 07:11 PM
 ARTERIAL LINE - START [**2103-11-3**] 07:48 PM
   - Intubated for respiratory distress
   - A-line placed
   - Bronchoscopy - Mild erythema of airways; no visible obstruction;
   multiple BALs sent; gram stain negative
   - CT chest without contrast ordered per ID recs
   - Per ID recs, started levofloxacin and meropenem to double cover gram
   (-) and to cover atypicals
   - Transfused 2 units platelets
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2103-11-3**] 08:40 PM
   Levofloxacin - [**2103-11-3**] 09:18 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-11-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 95 (93 - 151) bpm
   BP: 110/72(86) {94/61(73) - 123/77(87)} mmHg
   RR: 16 (0 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    961 mL
                                                                    192 mL
   PO:
             TF:
   IVF:
                                                                    383 mL
                                                                    192 mL
   Blood products:
                                                                    478 mL
   Total out:
                                                                    360 mL
                                                                    400 mL
   Urine:
                                                                    360 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/32/117/15/-8
   Ve: 11 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   8.1 g/dL
   108 mg/dL
   2.7 mg/dL
   15 mEq/L
   4.4 mEq/L
   54 mg/dL
   114 mEq/L
   142 mEq/L
   22.9 %
   3.9 K/uL
        [image002.jpg]
                             [**2103-11-3**]  05:13 PM
                             [**2103-11-3**]  09:39 PM
                             [**2103-11-3**]  10:32 PM
                             [**2103-11-4**]  02:14 AM
                             [**2103-11-4**]  03:53 AM
                             [**2103-11-4**]  04:40 AM
                             [**2103-11-4**]  05:43 AM
   WBC
   4.1
   3.9
   Hct
   22.3
   22.9
   Plt
   80
   68
   Cr
   2.7
   2.7
   TCO2
   15
   16
   13
   17
   17
   Glucose
   159
   108
   Other labs: PT / PTT / INR:12.6/27.3/1.1, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:95.3 %, Lymph:2.7 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:321 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   # PNEUMONIA: new infiltrates in the RUL and the RML on CXR obscuring
   the heart border and superior to fissure on R side.  He has had a
   recent hospitalization for pneumonia with out any + culture data.  He
   is not neutropenic but given lymphoma and prednisone he is
   immunosuppressed.
   -BAL for cultures, including PCP and fungal, viral culture and PCR and
   AFB, legionella, galactomannan on BAL- previous BAL from the beginning
   of [**2103-10-1**] without any growth
   -crypto antigen, CMV VL
   -send glucan and galactomannan
   -send urine legionella
   -for empiric coverage will treat with posaconazole, vanc, meropenem,
   and levoflox per ID recommendations
   -standing nebs (xopenex given tachycardia and atrovent)
   -on mechanical ventilation, given frequent ABGs will place A line
   # TACHYCARDIA: sinus tachycardia without any R heart strain.  Likely
   will improve with sedation and monitoring of volume status.
   -keep UOP greater than 30cc/hr
   -sedate while on mechanical ventilation
   -ECHO to evaluate for pericardial effusion or R heart failure
   # RENAL FAILURE: Cr 3.1, at a new baseline when compared to previous
   admission.  On previous admission he was on HD and Cr up to the 5
   range.  He had a renal biopsy w/ findings c/w ATN.
   -continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   -will send u/a and urine lytes as well
   # ACID / BASE disturbance:  The patient is acidemic  with a primary
   metabolic acidosis and a respiratory acidosis as well.  His metabolic
   acidosis has a gap of 15.  He has no reason to have ketoacidosis, may
   be related to uremia although Cr. and BUN not worsening.  Lactate is
   normal.  Will trend lactate.  No salicylates or other toxins.
   -attempt to correct respiratory acidosis with mechanical ventilation
   # HODGKINS LYMPHOMA: has had multiple courses of treatment.
   -continue solumedrol 10mg IV q6hrs currrently
   -continue Lamivudine 100mg po daily given +HBV in the past
   -continue acyclovir 400mg po q12hrs
   -tx PRBC for hct < 25, and plts < 10, maintain active type and screen
   # FEN/GI: NPO, PPI, sliding scale electrolyte repletion
   # PPX: no sc heparin given thrombcytopenia, ppi daily
   # CODE STATUS: FULL CODE
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-3**] 08:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2103-11-05 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1U pRBC per Hem/Onc (Transfuse <25 per BMT)
   - BAL negative for PCP, [**Name10 (NameIs) **], culture
   - Switched from AC to Pressure support:20, PEEP: 8, FIO2:40 % for
   comfort. RR 40/50s. Switched back to AC.
   - pt on TF
   - Started Insulin Sliding Scale
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2103-11-3**] 09:18 PM
   Meropenem - [**2103-11-4**] 08:00 PM
   Vancomycin - [**2103-11-4**] 08:26 PM
   Acyclovir - [**2103-11-4**] 08:26 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain. No complaints.
   Flowsheet Data as of  [**2103-11-5**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 108 (93 - 112) bpm
   BP: 119/74(91) {104/68(82) - 133/86(104)} mmHg
   RR: 19 (5 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,733 mL
                                                                    505 mL
   PO:
             TF:
                                                                    133 mL
                                                                    224 mL
   IVF:
                                                                    995 mL
                                                                    181 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    885 mL
                                                                    460 mL
   Urine:
                                                                    885 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 460 (460 - 460) mL
   PS : 20 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 23 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.32/29/110/14/-9
   Ve: 14.6 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General: Responsive
   Neck: No JVD appreciated
   Cardiovascular: Tachycardic, normal S1/S2, no murmurs appreciated
   Pulmonary: Coarse breath sounds diffusely, no crackles
   Abdomen: Normoactive bowel sounds, soft, nontender, not distended
   Extremities: Edematous left upper extremity; no lower extremity edema;
   radial and DP pulses 2+
   Labs / Radiology
   66 K/uL
   9.4 g/dL
   163 mg/dL
   2.9 mg/dL
   14 mEq/L
   4.1 mEq/L
   66 mg/dL
   115 mEq/L
   142 mEq/L
   25.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2103-11-3**]  10:32 PM
                             [**2103-11-4**]  02:14 AM
                             [**2103-11-4**]  03:53 AM
                             [**2103-11-4**]  04:40 AM
                             [**2103-11-4**]  05:43 AM
                             [**2103-11-4**]  10:49 AM
                             [**2103-11-4**]  11:12 AM
                             [**2103-11-4**]  06:06 PM
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
   WBC
   3.9
   3.8
   4.6
   Hct
   22.9
   23.0
   25.9
   Plt
   68
   81
   66
   Cr
   2.7
   2.9
   TCO2
   16
   13
   17
   17
   16
   18
   16
   Glucose
   108
   163
   Other labs: PT / PTT / INR:12.9/23.2/1.1, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:95.2 %, Lymph:2.5 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:321 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   # Respiratory distress: Infiltrates bilaterally, although these be
   fluid as well. He has had a recent hospitalization for pneumonia with
   out any + culture data
 was febrile prior to arrival in ICU but has
   been afebrile ever since; continues to be tachycardic, tachypneic. He
   is not neutropenic but given lymphoma and prednisone he is
   immunosuppressed. No leads with micro data. In addition to infection,
   heart failure is in differenital. Last TTE in [**2-6**] was normal.
   - Follow up BAL results
   - Crypto antigen, CMV VL pending
   - Glucan and galactomannan pending
   - Continue posaconazole, vanc, meropenem, and levoflox per ID
   recommendations for empiric coverage
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation
   - TTE, BNP to evaluate for heart failure
   # RENAL FAILURE: Creatinine between 2.5-3.0. Falling since last
   admission when patient was suspected of having renal failure secondary
   to contrast. Last admission which required HD; had renal biopsy at that
   time with findings consistent with ATN. FeNa nonspecific with value
   1.8%. Good urine production (~35cc/hour).
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   # ANION GAP METABOLIC ACIDOSIS: [**Month (only) 60**] be due to renal failure. Will check
   lactate.
   # HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue solumedrol 10mg IV q6hrs currrently
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   # FEN/GI: TF, PPI, sliding scale electrolyte repletion
   # PPX: Pneumatic compression boots, PPI
   # CODE STATUS: FULL CODE
   # DISPO: ICU
   ICU Care (As above)
   Nutrition:
   Nutren Renal (Full) - [**2103-11-5**] 03:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-3**] 08:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-11-06 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2103-11-5**] 11:01 AM
   - IVIG given per onc recs
   - TTE demonstrates preserved EF with new TR gradient
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2103-11-4**] 08:26 PM
   Acyclovir - [**2103-11-4**] 08:26 PM
   Levofloxacin - [**2103-11-5**] 07:00 PM
   Meropenem - [**2103-11-5**] 08:30 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Anxious to have ETT removed. Denies chest pain, abdominal pain.
   Flowsheet Data as of  [**2103-11-6**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 93 (92 - 111) bpm
   BP: 125/75(94) {106/66(80) - 153/92(116)} mmHg
   RR: 22 (0 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                  2,270 mL
                                                                    939 mL
   PO:
           TF:
                                                                    777 mL
                                                                    223 mL
   IVF:
                                                                    993 mL
                                                                     80 mL
   Blood products:
   436 mL
   Total out:
                                                                  1,650 mL
                                                                    280 mL
   Urine:
                                                                  1,650 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/29/101/15/-10
   Ve: 13.3 L/min
   PaO2 / FiO2: 289
   Physical Examination
   General: Responsive, appears uncomfortable
   Neck: No JVD appreciated
   Cardiovascular: Tachycardic, normal S1/S2, no murmurs appreciated
   Pulmonary: Coarse breath sounds particularly at upper lung fields, no
   crackles
   Abdomen: Normoactive bowel sounds, soft, nontender, not distended
   Extremities: Edematous left upper extremity; no lower extremity edema;
   radial and DP pulses 2+
   Labs / Radiology
   44 K/uL
   9.0 g/dL
   199 mg/dL
   2.8 mg/dL
   15 mEq/L
   3.7 mEq/L
   77 mg/dL
   116 mEq/L
   141 mEq/L
   25.6 %
   1.6 K/uL
        [image002.jpg]
                             [**2103-11-4**]  03:53 AM
                             [**2103-11-4**]  04:40 AM
                             [**2103-11-4**]  05:43 AM
                             [**2103-11-4**]  10:49 AM
                             [**2103-11-4**]  11:12 AM
                             [**2103-11-4**]  06:06 PM
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
                             [**2103-11-5**]  11:05 AM
                             [**2103-11-6**]  04:19 AM
   WBC
   3.9
   3.8
   4.6
   1.6
   Hct
   22.9
   23.0
   25.9
   25.6
   Plt
   68
   81
   66
   44
   Cr
   2.7
   2.9
   2.8
   TCO2
   17
   17
   16
   18
   16
   15
   Glucose
   108
   163
   199
   Other labs: PT / PTT / INR:12.9/23.2/1.1, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:95.2 %, Lymph:2.5 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:321 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Studies:
   Chest CT without contrast ([**2103-11-6**])
   TTE ([**2103-11-6**])
   Left upper extremity doppler ([**2103-11-6**])
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress: Pneumonia vs. fluid overload. TTE with mild
   reduction in LV systolic function
 more remarkable for considerable
   right heart pressures. BNP elevated, although this may be due to
   increased pressures in right heart.
        Infiltrates bilaterally. He has had a recent hospitalization for
   pneumonia with out any + culture data
 was febrile prior to arrival in
   ICU but has been afebrile ever since; continues to be tachycardic,
   tachypneic. He is not neutropenic but given lymphoma and prednisone he
   is immunosuppressed. No leads with micro data. In addition to
   infection, heart failure is in differenital. Last TTE in [**2-6**] was
   normal.
   - Gently diurese today with goal net output of 500cc.
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage
   - D/c vancomycin given drop in WBC count and unclear infection that we
   are treating; if spikes overnight, will restart coverage for Staph
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation
   #. Falling WBC count: Likely related to medication
 vancomycin? [**Month (only) 60**]
   also be decreased with infection, underlying malignancy
   - Check ANC
   - D/c vancoymcin
   #. RENAL FAILURE: Creatinine between 2.5-3.0. Falling since last
   admission when patient was suspected of having renal failure secondary
   to contrast. Last admission which required HD; had renal biopsy at that
   time with findings consistent with ATN. FeNa nonspecific with value
   1.8%. Good urine production.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. ANION GAP METABOLIC ACIDOSIS: Gap closed. Lactate within normal
   limits.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue solumedrol 10mg IV q6hrs currrently
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care (as above)
   Nutrition:
   Nutren Renal (Full) - [**2103-11-6**] 02:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-5**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-11-07 01:17:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
   - Continued diuresis yesterday with 2 doses of Lasix 20mg IV - good
   urine output
   - With drop in WBC yesterday, Vancomycin was discontinued. WBC has
   increased again today. Patient remains afebrile.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsBleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2103-11-4**] 08:26 PM
   Acyclovir - [**2103-11-4**] 08:26 PM
   Levofloxacin - [**2103-11-5**] 07:00 PM
   Meropenem - [**2103-11-6**] 08:33 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2103-11-6**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2103-11-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 106 (90 - 106) bpm
   BP: 133/79(99) {113/69(86) - 144/88(109)} mmHg
   RR: 19 (9 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,049 mL
                                                                    497 mL
   PO:
             TF:
                                                                    845 mL
                                                                    251 mL
   IVF:
                                                                  1,148 mL
                                                                    216 mL
   Blood products:
                                                                    436 mL
   Total out:
                                                                  2,875 mL
                                                                    850 mL
   Urine:
                                                                  2,875 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS Balance:
                                                                    174 mL
                                                                   1893 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 74
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.28/33/101/15/-9
   Ve: 9.6 L/min
   PaO2 / FiO2: 289
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube, No
   JVP.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, LUE Pitting Edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   32 K/uL
   9.6 g/dL
   192 mg/dL
   2.6 mg/dL
   15 mEq/L
   4.1 mEq/L
   79 mg/dL
   117 mEq/L
   145 mEq/L
   27.7 %
   3.3 K/uL
        [image002.jpg]
                             [**2103-11-4**]  10:49 AM
                             [**2103-11-4**]  11:12 AM
                             [**2103-11-4**]  06:06 PM
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
                             [**2103-11-5**]  11:05 AM
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
   WBC
   3.8
   4.6
   1.6
   3.3
   Hct
   23.0
   25.9
   25.6
   27.7
   Plt
   81
   66
   44
   32
   Cr
   2.9
   2.8
   2.7
   2.6
   TCO2
   16
   18
   16
   15
   16
   Glucose
   163
   199
   192
   Other labs: PT / PTT / INR:12.2/23.4/1.0, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.6 %,
   Mono:3.3 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:321 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: - FINDINGS: In comparison with study of [**11-5**], the endotracheal
   tube lies only about 1.3 cm above the carina. The remainder of the
   heart and lungs is
   essentially unchanged with right upper and some left-sided airspace
   opacification. Probable small bilateral pleural effusions persist. The
   large
   calcified mass is again seen.
      DR. [**First Name8 (NamePattern2) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]
   Approved: TUE [**2103-11-6**] 8:49 AM
   - CHEST CT, [**11-5**]:
     HISTORY: Patient with recurrent Hodgkin's disease, now intubated.
   Question
   pneumonia or fluid overload.
     TECHNIQUE: Multidetector helical scanning of the chest was performed
   without
   intravenous contrast [**Doctor Last Name **] reconstructed as contiguous 5- and 1.25-mm
   thick
   axial and 5 mm thick coronal and paramedian sagittal images compared to
   chest
   CT scanning since [**2103-8-28**], most recently [**2103-10-24**], read
   in
   conjunction with recent chest radiographs.
     FINDINGS: Recent chest radiographs document the development of large
   region
   of consolidation in the right upper lobe, and in the right lower lung,
   including at least the middle lobe, between [**10-24**] and [**11-2**],
   consistent with pneumonia or, given the appropriate clinical history,
   pulmonary hemorrhage; mild interstitial pulmonary edema cleared between
   [**11-2**] and [**11-5**]:
     The most recent prior chest CT [**2103-10-24**] shows multifocal
   pneumonia
   had progressed since [**10-23**]. Today's examination shows a
   substantial
   progression of consolidation, peribronchial infiltration and
   ground-glass
   opacification in all of the areas previously abnormal but does not
   reflect
   recent improvement over the past several days.
     Small-to-moderate nonhemorrhagic bilateral pleural effusion is
   unchanged.
   Marked thickening of the left posterior costal pleural surface in the
   lower
   lungs is stable, indicating either chronicity or exudate.
     There is no pulmonary edema. The mass-like area of consolidation in
   the
   infrahilar right lower lobe has been present since at least [**2103-2-7**],
   but substantially smaller since, though stable since [**2103-10-5**].
   This
   could represent local recurrence of lymphoma responding to treatment,
   or an
   associated condition such as cryptogenic organizing pneumonia. Focal
   thickening of the pericardium around the large chronic, peripherally
   calcified
   mediastinal cyst or residual lymphoma, is also stable. There is no new
   mediastinal adenopathy.
     The study is not designed for subdiaphragmatic evaluation, except to
   note some
   involution of the infiltrating nodal mass in the retroperitoneum at the
   level
   of the superior mesenteric artery, and not particularly the left
   adrenal
   component which measured 36 x 43 mm on [**10-5**] and is 29 x 25 mm
   today
   (2:53).
     IMPRESSION:
   1. No pulmonary edema. Multifocal pneumonia progressed since [**10-24**],
   [**2103**] Chest CT, but improved when chest radiographs are reviewed between
   [**11-2**] and [**11-5**].
   2. Right infrahilar mass decreased in size since [**2103-1-30**],
   retroperitoneal adenopathy and left adrenal mass decreased since
   [**2103-10-5**]. These areas may represent treatment response of lymphoma.
   3. Conventional chest radiography should be sufficient to chart the
   course of
   intrathoracic findings over the near future.
     The study and the report were reviewed by the staff radiologist.
     DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5885**]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 5886**]
   Approved: TUE [**2103-11-6**] 11:40 AM
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress/failure: CT scan is consistent with a
   multifocal pneumonia. However, patient remains afebrile without
   leukocytosis. There may be some component of pulmonary edema. TTE with
   mild reduction in LV systolic function
 more remarkable for
   considerable right heart pressures. BNP elevated, although this may be
   due to increased pressures in right heart.
        Infiltrates bilaterally. He has had a recent hospitalization for
   pneumonia without any positive culture data
 was febrile prior to
   arrival in ICU but has been afebrile ever since. Microbiology results
   continue to be negative. In addition to infection, heart failure is in
   differenital. Last TTE in [**2-6**] was normal.  No change on CXR from
   yesterday.
   - Gently diurese today with goal net output of 500cc. Lasix 20mg IV at
   12:30pm and 6:30pm +/- midnight.
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage. Consider discontinuing these antibiotics as this
   is less likely to be infectious.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation with standard precautions
   - Consider pleurocentesis
   - Consider VATS for tissue diagnosis
   #. Falling WBC count: WBC rose today to 3.3. The drop yesterday may
   have been due to vancomycin. Patient did not spike fever overnight. WBC
   changes may also be decreased with infection, underlying malignancy.
   - If patient becomes febrile, consider coverage for staph. Until then,
   hold vancomycin.
   #. RENAL FAILURE: Creatinine between 2.5-3.0. Falling since last
   admission when patient was suspected of having renal failure secondary
   to contrast. Last admission which required HD; had renal biopsy at that
   time with findings consistent with ATN. FeNa nonspecific with value
   1.8%. Good urine production > 100/hour.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. ANION GAP METABOLIC ACIDOSIS: Gap nearly closed. Lactate within
   normal limits. Recent ABG=7.28/33/101. HCO3=15. This is compensated
   metabolic acidosis with AG=13, which is slightly elevated.  Check
   lactate today.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue solumedrol 10mg IV q6hrs currrently
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion. Increase
   insulin sliding scale as glucose has been elevated.
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2103-11-7**] 05:57 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-5**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   13:49
   ------ Protected Section ------
   Agree with above MS [**First Name (Titles) **] [**Last Name (Titles) 5893**]t and plan. Attempting to diurese
   today with goal -1 liter and will reassess clinical status and cxr
   along with sbt in am. If no improvement in pulmonary function after
   diuresis, will consider obtaining tissue diagnosis with VATS to
   elucidate infectious source.
   ------ Protected Section Addendum Entered By:[**Name (NI) 195**] [**Last Name (NamePattern1) 5848**], MD
   on:[**2103-11-7**] 15:00 ------
   Critical Care
   Respiratory status remains unchanged with RR 30
s with any decrease in
   support.  CXR also unchanged. I  am still skeptical this is infectious.
   Have reviewed films with radiology. Plan is to diurese and then VATS if
   no response.
   Time spent: 65 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2103-11-7**] 18:24 ------

2103-11-07 07:17:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
   - Continued diuresis yesterday with 2 doses of Lasix 20mg IV - good
   urine output
   - With drop in WBC yesterday, Vancomycin was discontinued. WBC has
   increased again today.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsBleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2103-11-4**] 08:26 PM
   Acyclovir - [**2103-11-4**] 08:26 PM
   Levofloxacin - [**2103-11-5**] 07:00 PM
   Meropenem - [**2103-11-6**] 08:33 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2103-11-6**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2103-11-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 106 (90 - 106) bpm
   BP: 133/79(99) {113/69(86) - 144/88(109)} mmHg
   RR: 19 (9 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,049 mL
                                                                    497 mL
   PO:
             TF:
                                                                    845 mL
                                                                    251 mL
   IVF:
                                                                  1,148 mL
                                                                    216 mL
   Blood products:
                                                                    436 mL
   Total out:
                                                                  2,875 mL
                                                                    850 mL
   Urine:
                                                                  2,875 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS Balance:
                                                                    174 mL
                                                                   1893 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 74
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.28/33/101/15/-9
   Ve: 9.6 L/min
   PaO2 / FiO2: 289
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube, No
   JVP.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, LUE Pitting Edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   32 K/uL
   9.6 g/dL
   192 mg/dL
   2.6 mg/dL
   15 mEq/L
   4.1 mEq/L
   79 mg/dL
   117 mEq/L
   145 mEq/L
   27.7 %
   3.3 K/uL
        [image002.jpg]
                             [**2103-11-4**]  10:49 AM
                             [**2103-11-4**]  11:12 AM
                             [**2103-11-4**]  06:06 PM
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
                             [**2103-11-5**]  11:05 AM
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
   WBC
   3.8
   4.6
   1.6
   3.3
   Hct
   23.0
   25.9
   25.6
   27.7
   Plt
   81
   66
   44
   32
   Cr
   2.9
   2.8
   2.7
   2.6
   TCO2
   16
   18
   16
   15
   16
   Glucose
   163
   199
   192
   Other labs: PT / PTT / INR:12.2/23.4/1.0, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.6 %,
   Mono:3.3 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:321 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: - FINDINGS: In comparison with study of [**11-5**], the endotracheal
   tube lies only about 1.3 cm above the carina. The remainder of the
   heart and lungs is
   essentially unchanged with right upper and some left-sided airspace
   opacification. Probable small bilateral pleural effusions persist. The
   large
   calcified mass is again seen.
      DR. [**First Name8 (NamePattern2) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]
   Approved: TUE [**2103-11-6**] 8:49 AM
   - CHEST CT, [**11-5**]:
   HISTORY: Patient with recurrent Hodgkin's disease, now intubated.
   Question
   pneumonia or fluid overload.
   TECHNIQUE: Multidetector helical scanning of the chest was performed
   without
   intravenous contrast [**Doctor Last Name **] reconstructed as contiguous 5- and 1.25-mm
   thick
   axial and 5 mm thick coronal and paramedian sagittal images compared to
   chest
   CT scanning since [**2103-8-28**], most recently [**2103-10-24**], read
   in
   conjunction with recent chest radiographs.
   FINDINGS: Recent chest radiographs document the development of large
   region
   of consolidation in the right upper lobe, and in the right lower lung,
   including at least the middle lobe, between [**10-24**] and [**11-2**],
   consistent with pneumonia or, given the appropriate clinical history,
   pulmonary hemorrhage; mild interstitial pulmonary edema cleared between
   [**11-2**] and [**11-5**]:
   The most recent prior chest CT [**2103-10-24**] shows multifocal
   pneumonia
   had progressed since [**10-23**]. Today's examination shows a
   substantial
   progression of consolidation, peribronchial infiltration and
   ground-glass
   opacification in all of the areas previously abnormal but does not
   reflect
   recent improvement over the past several days.
   Small-to-moderate nonhemorrhagic bilateral pleural effusion is
   unchanged.
   Marked thickening of the left posterior costal pleural surface in the
   lower
   lungs is stable, indicating either chronicity or exudate.
   There is no pulmonary edema. The mass-like area of consolidation in the
   infrahilar right lower lobe has been present since at least [**2103-2-7**],
   but substantially smaller since, though stable since [**2103-10-5**].
   This
   could represent local recurrence of lymphoma responding to treatment,
   or an
   associated condition such as cryptogenic organizing pneumonia. Focal
   thickening of the pericardium around the large chronic, peripherally
   calcified
   mediastinal cyst or residual lymphoma, is also stable. There is no new
   mediastinal adenopathy.
   The study is not designed for subdiaphragmatic evaluation, except to
   note some
   involution of the infiltrating nodal mass in the retroperitoneum at the
   level
   of the superior mesenteric artery, and not particularly the left
   adrenal
   component which measured 36 x 43 mm on [**10-5**] and is 29 x 25 mm
   today
   (2:53).
   IMPRESSION:
   1. No pulmonary edema. Multifocal pneumonia progressed since [**10-24**],
   [**2103**] Chest CT, but improved when chest radiographs are reviewed between
   [**11-2**] and [**11-5**].
   2. Right infrahilar mass decreased in size since [**2103-1-30**],
   retroperitoneal adenopathy and left adrenal mass decreased since
   [**2103-10-5**]. These areas may represent treatment response of lymphoma.
   3. Conventional chest radiography should be sufficient to chart the
   course of
   intrathoracic findings over the near future.
   The study and the report were reviewed by the staff radiologist.
   DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5885**]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) 5886**]
   Approved: TUE [**2103-11-6**] 11:40 AM
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress: Pneumonia vs. fluid overload. TTE with mild
   reduction in LV systolic function
 more remarkable for considerable
   right heart pressures. BNP elevated, although this may be due to
   increased pressures in right heart.
        Infiltrates bilaterally. He has had a recent hospitalization for
   pneumonia without any positive culture data
 was febrile prior to
   arrival in ICU but has been afebrile ever since. Microbiology results
   continue to be negative. In addition to infection, heart failure is in
   differenital. Last TTE in [**2-6**] was normal.  Right lung field appears
   more opacified today.
   - Gently diurese today with goal net output of 500cc.
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation with standard precautions
   #. Falling WBC count: WBC rose today to 3,300. The drop yesterday may
   have been due to vancomycin. Patient did not spike fever overnight. WBC
   changes may also be decreased with infection, underlying malignancy.
   - If patient becomes febrile, consider coverage for staph. Until then,
   hold vancomycin.
   #. RENAL FAILURE: Creatinine between 2.5-3.0. Falling since last
   admission when patient was suspected of having renal failure secondary
   to contrast. Last admission which required HD; had renal biopsy at that
   time with findings consistent with ATN. FeNa nonspecific with value
   1.8%. Good urine production > 100/hour.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. ANION GAP METABOLIC ACIDOSIS: Gap nearly closed. Lactate within
   normal limits. Recent ABG=7.28/33/101. HCO3=15. This is compensated
   metabolic acidosis with AG=13, which is slightly elevated.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue solumedrol 10mg IV q6hrs currrently
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2103-11-7**] 05:57 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-5**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-11-08 01:00:00 Physician Resident Progress Note
Chief Complaint: No change
   24 Hour Events:
   - Patient received 2 doses of Lasix 20mg IV. He was -700 mL fluid
   balance by 9pm. Started on Lasix drip.
   - Per ID recommendations, patient continued on Meroopenem,
   Levofloxacin, and Posaconazole.
   - Surgery involved for possible VATs for tissue diagnosis
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2103-11-5**] 07:00 PM
   Acyclovir - [**2103-11-7**] 08:03 AM
   Meropenem - [**2103-11-7**] 07:57 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-7**] 08:03 AM
   Furosemide (Lasix) - [**2103-11-7**] 01:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO, Tube feeds
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2103-11-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 114 (98 - 120) bpm
   BP: 130/78(98) {119/71(88) - 153/91(115)} mmHg
   RR: 31 (6 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,048 mL
                                                                    737 mL
   PO:
             TF:
                                                                    849 mL
                                                                    260 mL
   IVF:
                                                                    939 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                  1,155 mL
   Urine:
                                                                  3,555 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,507 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 52
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/40/115/18/-5
   Ve: 7.5 L/min
   PaO2 / FiO2: 329
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   24 K/uL
   10.1 g/dL
   162 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.8 mEq/L
   82 mg/dL
   114 mEq/L
   143 mEq/L
   29.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
                             [**2103-11-5**]  11:05 AM
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
                             [**2103-11-7**]  01:22 PM
                             [**2103-11-7**]  02:49 PM
                             [**2103-11-8**]  04:20 AM
   WBC
   4.6
   1.6
   3.3
   3.4
   Hct
   25.9
   25.6
   27.7
   29.4
   Plt
   66
   44
   32
   24
   Cr
   2.9
   2.8
   2.7
   2.6
   2.5
   2.3
   TCO2
   16
   15
   16
   17
   20
   Glucose
   163
   199
   192
   162
   Other labs: PT / PTT / INR:12.2/23.4/1.0, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.6 %,
   Mono:3.3 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL,
   LDH:321 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL; ABG:
   7.30/40/115
   Imaging: CXR([**2103-11-7**]):
   REASON FOR EXAMINATION: Followup of a patient with Hodgkin's lymphoma,
   intubated for respiratory distress. Portable AP chest radiograph was
   compared to prior study obtained on [**2103-11-6**] at 06:04 a.m. The
   ET tube tip remains low, approximately 1.5 cm above the carina, but
   given significant flexion of patient neck, it might be still within the
   appropriate limits. There is still present extensive right upper lobe
   opacities continuing towards the lower lungs might represent infection.
   The known right infrahilar mass is seen. Small-to-moderate bilateral
   pleural effusions are demonstrated.
    DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5905**] Approved: WED [**2103-11-7**] 1:26 PM
   CXR (10/0908): Official Read Pending.
   Microbiology: Beta Glucan Pending
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress/failure: CT scan is consistent with a
   multifocal pneumonia. However, patient remains afebrile without
   leukocytosis. There may be some component of pulmonary edema. TTE
   inconsistent with heart failure as cause of respiratory distress.
   Cryptogenic organizing pneumonia is on differential as well as fungal
   infection. Thoracic surgery has been consulted for possible VATs with
   tissue biopsy for diagnosis of COP or fungal infection. However,
   patient diuresed 1500mL in past 24 hours and CXR is much improved from
   yesterday with substantially less pulmonary edema. Thus, will defer
   further work up for now while continuing diuresis.
   - Continue diuresis today. Currently on lasix drip with goal of
   UOP=100cc/hr.
   - Consider Vigileo to further assess possibilty of cardiogenic
   pulmonary edema
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage. Discuss with ID/BMT regarding need for these
   medications as patient is improving with diuresis.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation with standard precautions
   - If continued improvement in CXR findings and RSBI, likely extubation
   tomorrow.
   #. RENAL FAILURE: Creatinine continuing to drop despite diuresis.
   Falling since last admission when patient was suspected of having renal
   failure secondary to contrast. Last admission which required HD; had
   renal biopsy at that time with findings consistent with ATN. Good urine
   production > 100/hour while on lasix with stable creatinine.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. METABOLIC ACIDOSIS: Minimally improved from yesterday with pH=7.32.
   AG=11. Lactate within normal limits. This is compensated metabolic
   acidosis. Continue to monitor with ABGs.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Change solumedrol 10mg IV q6hrs to outpatient dose of Prednisone 10mg
   PO
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. WBC COUNT: Had dropped while on Vancomycin. Resolved after
   discontinuation. White count stable.
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion. Insulin
   sliding scale increased yesterday as glucose had been elevated.
   Continue to monitor. Adjust insulin as needed.
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care
   Nutrition: Can continue tube feeds. NPO tomorrow prior to tube pulled.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-5**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   13:09

2103-11-08 07:39:00 Physician Resident Progress Note
Chief Complaint: No change
   24 Hour Events:
   - Patient received 2 doses of Lasix 20mg IV. He was -700 mL fluid
   balance by 9pm. Started on Lasix drip.
   - Per ID recommendations, patient continued on Meroopenem,
   Levofloxacin, and Posaconazole.
   - Surgery involved for possible VATs for tissue diagnosis
   Allergies:
   Bleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2103-11-5**] 07:00 PM
   Acyclovir - [**2103-11-7**] 08:03 AM
   Meropenem - [**2103-11-7**] 07:57 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-7**] 08:03 AM
   Furosemide (Lasix) - [**2103-11-7**] 01:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO, Tube feeds
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2103-11-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 114 (98 - 120) bpm
   BP: 130/78(98) {119/71(88) - 153/91(115)} mmHg
   RR: 31 (6 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,048 mL
                                                                    737 mL
   PO:
             TF:
                                                                    849 mL
                                                                    260 mL
   IVF:
                                                                    939 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                  1,155 mL
   Urine:
                                                                  3,555 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,507 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 52
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/40/115/18/-5
   Ve: 7.5 L/min
   PaO2 / FiO2: 329
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   24 K/uL
   10.1 g/dL
   162 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.8 mEq/L
   82 mg/dL
   114 mEq/L
   143 mEq/L
   29.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2103-11-5**]  03:55 AM
                             [**2103-11-5**]  04:13 AM
                             [**2103-11-5**]  11:05 AM
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
                             [**2103-11-7**]  01:22 PM
                             [**2103-11-7**]  02:49 PM
                             [**2103-11-8**]  04:20 AM
   WBC
   4.6
   1.6
   3.3
   3.4
   Hct
   25.9
   25.6
   27.7
   29.4
   Plt
   66
   44
   32
   24
   Cr
   2.9
   2.8
   2.7
   2.6
   2.5
   2.3
   TCO2
   16
   15
   16
   17
   20
   Glucose
   163
   199
   192
   162
   Other labs: PT / PTT / INR:12.2/23.4/1.0, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.6 %,
   Mono:3.3 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL,
   LDH:321 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL; ABG:
   7.30/40/115
   Imaging: CXR([**2103-11-7**]):
   REASON FOR EXAMINATION: Followup of a patient with Hodgkin's lymphoma,
   intubated for respiratory distress. Portable AP chest radiograph was
   compared to prior study obtained on [**2103-11-6**] at 06:04 a.m. The
   ET tube tip remains low, approximately 1.5 cm above the carina, but
   given significant flexion of patient neck, it might be still within the
   appropriate limits. There is still present extensive right upper lobe
   opacities continuing towards the lower lungs might represent infection.
   The known right infrahilar mass is seen. Small-to-moderate bilateral
   pleural effusions are demonstrated.
    DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5905**] Approved: WED [**2103-11-7**] 1:26 PM
   Microbiology: Beta Glucan Pending
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress/failure: CT scan is consistent with a
   multifocal pneumonia. However, patient remains afebrile without
   leukocytosis. There may be some component of pulmonary edema. TTE
   inconsistent with heart failure as cause of respiratory distress.
   Cryptogenic organizing pneumonia is on differential. Diagnosis is made
   through tissue histology. Possibility of fungal infection as well.
   Thoracic surgery has been consulted for possible VATs with tissue
   biopsy.
         Patient diuresed 1500mL in past 24 hours. CXR
   - Continue diuresis today. Currently on lasix drip.
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - On mechanical ventilation with standard precautions
   - Follow up with surgery and heme/onc regarding possible VATs
   #. RENAL FAILURE: Creatinine between 2.5-3.0. Falling since last
   admission when patient was suspected of having renal failure secondary
   to contrast. Last admission which required HD; had renal biopsy at that
   time with findings consistent with ATN. Good urine production >
   100/hour while on lasix with stable creatinine.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. METABOLIC ACIDOSIS: Minimally improved from yesterday with pH=7.30.
   AG=11. Lactate within normal limits. This is compensated metabolic
   acidosis. Continue to monitor with ABGs.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue solumedrol 10mg IV q6hrs currrently
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. WBC COUNT: Had dropped while on Vancomycin. Resolved after
   discontinuation. White count stable.
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion. Insulin
   sliding scale increased yesterday as glucose had been elevated.
   Continue to monitor. Adjust insulin as needed.
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
   20 Gauge - [**2103-11-5**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-11-09 07:24:00 Physician Resident Progress Note
Chief Complaint: Feels his muscles are weak. Wants to move around. Glad
   to have the ET tube out.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2103-11-8**] 05:23 PM
   - Patient extubated yesterday.
   - Lab results:
     - Beta-glucan positive, galactomannan negative.
     - Sputum gram stain from yesterday AM grew 1+ GPC in pairs, chains,
   and clusters --> started vancomycin
     - Hypernatremic yesterday to 147. Today is 144. No intervention done.
   - A line removed in AM today.
   History obtained from Patient
   Allergies:
   History obtained from PatientBleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2103-11-7**] 08:03 AM
   Meropenem - [**2103-11-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-8**] 08:06 AM
   Lorazepam (Ativan) - [**2103-11-9**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: Feels weak/atrophied
   Flowsheet Data as of  [**2103-11-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 105 (92 - 125) bpm
   BP: 134/75(142) {105/70(92) - 164/100(282)} mmHg
   RR: 33 (8 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,403 mL
                                                                    127 mL
   PO:
             TF:
                                                                    260 mL
   IVF:
                                                                    753 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  4,135 mL
                                                                  1,520 mL
   Urine:
                                                                  4,135 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,732 mL
                                                                 -1,393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 568 (431 - 568) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.32/38/114/21/-5
   Ve: 11.1 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   18 K/uL
   10.4 g/dL
   83 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.5 mEq/L
   71 mg/dL
   112 mEq/L
   144 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
                             [**2103-11-7**]  01:22 PM
                             [**2103-11-7**]  02:49 PM
                             [**2103-11-8**]  04:20 AM
                             [**2103-11-8**]  09:16 AM
                             [**2103-11-8**]  05:13 PM
                            [**2103-11-9**]  04:53 AM
   WBC
   1.6
   3.3
   3.4
   4.4
   Hct
   25.6
   27.7
   29.4
   28.4
   Plt
   44
   32
   24
   18
   Cr
   2.8
   2.7
   2.6
   2.5
   2.3
   2.3
   2.1
   TCO2
   16
   17
   20
   20
   Glucose
   199
   192
   162
   116
   83
   Other labs: PT / PTT / INR:12.2/23.4/1.0, ALT / AST:19/19, Alk Phos / T
   Bili:129/0.3, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:4.6 %,
   Mono:3.3 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL,
   LDH:321 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: INDICATION: Respiratory failure.
   COMPARISON: [**2103-11-7**].
   PORTABLE CHEST RADIOGRAPH: Endotracheal tube seen with tip
   approximately 3 cm
   above the carina. Right-sided central venous line and nasogastric tube
   are in
   unchanged position. Minimally improved aeration seen in the lungs on
   the
   current study. There is a slight decrease in the right upper lobe
   opacity.
   Otherwise, little change compared to prior study.
   IMPRESSION: Slightly improved aeration, with minimal decrease in right
   upper
   The study and the report were reviewed by the staff radiologist.
   DR. [**First Name11 (Name Pattern1) 5918**] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) **]
   DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5919**]Approved: [**Doctor First Name **] [**2103-11-8**] 1:55 PM
   Microbiology: [**2103-11-8**] 8:23 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2103-11-8**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
   Legionella Urinary Antigen  (Final [**2103-11-4**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   CMV Viral Load (Final [**2103-11-6**]):
         CMV DNA not detected.
   B-GLUCAN
   ----
   Fungitell (tm) Assay for (1,3)-B-D-Glucans
   Results                                 Reference Ranges
   -------                                 ----------------
    353  pg/ml                             Negative       Less than 60
   pg/ml
                                           Indeterminate  60 - 79 pg/ml
                                           Positive       Greater than or
   equal to
                                                          80 pg/ml
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress/failure: Patient has shown improvement in
   respiratory function and on CXR with continued diuresis. He was
   extubated yesterday afternoon and denies any shortness of breath
   currently. His respiratory distress/failure may have been due to
   pulmonary edema. Beta-glucan, which is a fungal assay, came back
   positive. This may be a false positive secondary to antibiotic use.
   Patient has been on posaconazole for presumed fungal infection. Patient
   was negative nearly 3 liters yesterday. Vigileo yesterday showed
   CO=9.6, CI=5.8, indicating he was hypervolemic with good cardiac
   function.
   - Will decrease diuresis.
   - Will consult cardiology today to determine if his pulmonary edema was
   cardiogenic.
   - Continue posaconazole, meropenem, and levoflox per ID recommendations
   for empiric coverage.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - Restarted Vancomycin secondary to GPC on gram stain
   #. RENAL FAILURE: Creatinine continuing to drop despite diuresis.
   Falling since last admission when patient was suspected of having renal
   failure secondary to contrast. Last admission which required HD; had
   renal biopsy at that time with findings consistent with ATN. Good urine
   production > 100/hour while on lasix with stable creatinine.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. METABOLIC ACIDOSIS: pH=7.32 this morning with AG=11. This is
   compensated metabolic acidosis with improving HCO3. Continue to monitor
   with ABGs.
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue outpatient dose of Prednisone 10mg PO
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   #. WBC COUNT: Had dropped while on Vancomycin. Resolved after
   discontinuation. White count stable. Will continue to monitor as
   patient
s vancomycin was restarted.
   #. FEN/GI: TF, PPI, sliding scale electrolyte repletion. Adjust insulin
   as needed.
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
 pulled in AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-11-09 13:24:00 Physician Resident Progress Note
Chief Complaint: Feels his muscles are weak. Wants to move around. Glad
   to have the ET tube out.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2103-11-8**] 05:23 PM
   - Patient extubated yesterday.
   - Lab results:
     - Beta-glucan positive, galactomannan negative.
     - Sputum gram stain from yesterday AM grew 1+ GPC in pairs, chains,
   and clusters --> started vancomycin
     - Hypernatremic yesterday to 147. Today is 144. No intervention done.
   - A line removed in AM today.
   History obtained from Patient
   Allergies:
   History obtained from PatientBleomycin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2103-11-7**] 08:03 AM
   Meropenem - [**2103-11-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-11-8**] 08:06 AM
   Lorazepam (Ativan) - [**2103-11-9**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: Feels weak/atrophied
   Flowsheet Data as of  [**2103-11-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 105 (92 - 125) bpm
   BP: 134/75(142) {105/70(92) - 164/100(282)} mmHg
   RR: 33 (8 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,403 mL
                                                                    127 mL
   PO:
             TF:
                                                                    260 mL
   IVF:
                                                                    753 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  4,135 mL
                                                                  1,520 mL
   Urine:
                                                                  4,135 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,732 mL
                                                                 -1,393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 568 (431 - 568) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.32/38/114/21/-5
   Ve: 11.1 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   18 K/uL
   10.4 g/dL
   83 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.5 mEq/L
   71 mg/dL
   112 mEq/L
   144 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2103-11-6**]  04:19 AM
                             [**2103-11-6**]  05:24 PM
                             [**2103-11-7**]  04:12 AM
                             [**2103-11-7**]  04:33 AM
                             [**2103-11-7**]  01:22 PM
                             [**2103-11-7**]  02:49 PM
                             [**2103-11-8**]  04:20 AM
                             [**2103-11-8**]  09:16 AM
                             [**2103-11-8**]  05:13 PM
                            [**2103-11-9**]  04:53 AM
   WBC
   1.6
   3.3
   3.4
   4.4
   Hct
   25.6
   27.7
   29.4
   28.4
   Plt
   44
   32
   24
   18
   Cr
   2.8
   2.7
   2.6
   2.5
   2.3
   2.3
   2.1
   TCO2
   16
   17
   20
   20
   Glucose
   199
   192
   162
   116
   83
   Other labs: Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: INDICATION: Respiratory failure.
     COMPARISON: [**2103-11-7**].
     PORTABLE CHEST RADIOGRAPH: Endotracheal tube seen with tip
   approximately 3 cm
   above the carina. Right-sided central venous line and nasogastric tube
   are in
   unchanged position. Minimally improved aeration seen in the lungs on
   the
   current study. There is a slight decrease in the right upper lobe
   opacity.
   Otherwise, little change compared to prior study.
     IMPRESSION: Slightly improved aeration, with minimal decrease in
   right upper
     The study and the report were reviewed by the staff radiologist.
     DR. [**First Name11 (Name Pattern1) 5918**] [**Initial (NamePattern1) **]. [**Last Name (NamePattern1) **]
   DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5919**]Approved: [**Doctor First Name **] [**2103-11-8**] 1:55 PM
   Microbiology:
   [**2103-11-8**] 8:23 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2103-11-8**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS,
   CHAINS, AND CLUSTERS.
   Legionella Urinary Antigen  (Final [**2103-11-4**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   CMV Viral Load (Final [**2103-11-6**]):
         CMV DNA not detected.
   B-GLUCAN
   Fungitell (tm) Assay for (1,3)-B-D-Glucans
   Results                                 Reference Ranges
   -------                                 ----------------
    353  pg/ml                             Negative       Less than 60
   pg/ml
                                           Indeterminate  60 - 79 pg/ml
                                           Positive       Greater than or
   equal to 80 pg/ml
   Assessment and Plan
   45 yo M with a long history of recurrent Hodgkin's lymphoma s/p
   allogeneic transplant with recurrence admitted with fever, hypoxia and
   new pulmonary infiltrates, intubated given respiratory distress.
   #. Respiratory distress/failure: Patient has shown improvement in
   respiratory function and on CXR with continued diuresis. He was
   extubated yesterday afternoon and denies any shortness of breath
   currently. His respiratory distress/failure may have been due to
   pulmonary edema. Beta-glucan, which is a fungal assay, came back
   positive. Patient has already been on posaconazole for presumed fungal
   infection. Fluid balance was negative nearly 3 liters yesterday.
   Vigileo yesterday showed CO=9.6, CI=5.8, indicating he was hypervolemic
   with good cardiac function. Pulmonary [**Last Name (un) **]-occlusive disease may be an
   underlying etiology responsible for his respiratory status. Diagnostic
   work up would include right heart catheterization.
   - Continue gentle diuresis with goal of -2L today.
   - Switch to Lasix 20mg PO daily. Discontinue Lasix IV drip.
   - Will not consult cardiology as patient has requested that no more
   procedures be done. Right heart catheterization may be an appropriate
   next step in his work up to provide further diagnostic and prognostic
   information. VATs may be another possible investigation, but will not
   be considered at this time given his improving respiratory function and
   patient
s wishes.
   - Continue posaconazole, meropenem, and levoflox per ID
   recommendations.
   - Standing nebs (xopenex given tachycardia and atrovent)
   - Discontinue vancomycin as any severe GPC infection would produce
   symptoms.
   #. RENAL FAILURE: Creatinine continuing to drop with diuresis. Falling
   since last admission when patient was suspected of having renal failure
   secondary to contrast. Last admission which required HD; had renal
   biopsy at that time with findings consistent with ATN. Good urine
   production > 100/hour while on lasix with stable creatinine.
   - Continue to renally dose meds, avoid hypotension and keep UOP >
   30cc/hr
   - Continue to monitor
   #. HODGKINS LYMPHOMA: Has had multiple courses of treatment.
   - Continue outpatient dose of Prednisone 10mg PO
   - Continue Lamivudine 100mg po daily given +HBV in the past
   - Continue acyclovir 400mg po q12hrs
   - Transfuse PRBC for hct < 25, and plts < 10, maintain active type and
   screen. Received one dose on [**11-4**].
   - Platelets continuing to drop. Check tomorrow AM and transfuse when
   drops below 10.
   #. WBC COUNT: Had dropped while on Vancomycin. Resolved after
   discontinuation. White count stable. Will continue to monitor as
   patient
s vancomycin was restarted.
   #. FEN/GI: ADAT, PPI, sliding scale electrolyte repletion. Adjust
   insulin as needed.
   #. PPX: Pneumatic compression boots, PPI
   #. CODE STATUS: FULL CODE
   #. DISPO: Callout to Oncology today.
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2103-11-3**] 03:34 PM
   Arterial Line - [**2103-11-3**] 07:48 PM
 pulled in AM
   Prophylaxis:
   DVT: Pneumatic compression boots.
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:Callout to oncology.
   13:37